US08053431B2
1-{2-[(4-Hydroxypiperidine-1-carbonyl)-amino]-ethyl}-1H-benzoimidazole-5-carboxylic Acid (5-hydroxy-adamantan-2-yl)-amide
To a solution of 1-(2-aminoethyl)-1H-benzimidazole-5-carboxylic acid (5-hydroxy-adamantan-2-yl)-amide (0.35 g, 0.988 mmol) in dry THF (5 mL) was added DIPEA (0.3 mL, 1.91 mmol) at 0° C. To this reaction mixture was added 4-hydroxypiperidine-1-carbonyl chloride slowly and stirred for 2 h at ambient temperature. The solvents were evaporated and the residue purified by preparative HPLC cis and trans isomers of 1-{2-[(4-hydroxypiperidine-1-carbonyl)-amino]-ethyl}-1H-benzimidazole-5-carboxylic acid (5-hydroxyadamantan-2-yl)amide.

reactant | 1-(2-aminoethyl)-1H-benzimidazole-5-carboxylic acid (5-hydroxy-adamantan-2-yl)-amide | 0.988 mmol, 0.35 g | OC12CC3C(C(CC(C1)C3)C2)NC(=O)C2=CC3=C(N(C=N3)CCN)C=C2 | C20H26N4O2
reactant | DIPEA | 1.91 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-hydroxypiperidine-1-carbonyl chloride | OC1CCN(CC1)C(=O)Cl | C6H10ClNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-{2-[(4-Hydroxypiperidine-1-carbonyl)-amino]-ethyl}-1H-benzoimidazole-5-carboxylic Acid (5-hydroxy-adamantan-2-yl)-amide | OC12CC3C(C(CC(C1)C3)C2)NC(=O)C2=CC3=C(N(C=N3)CCNC(=O)N3CCC(CC3)O)C=C2 | C26H35N5O4
